US08378104B2
Step A: 7-bromo-5-(3-fluorophenyl)-1,2,3-benzothiadiazole
A mixture of 7-bromo-5-iodo-1,2,3-benzothiadiazole (20 mg, 0.0586 mmol), 3-fluorophenylboronic acid (9.85 mg, 0.0704 mmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium (II) dichloride dichloromethane complex (2.14 mg, 0.00293 mmol), potassium carbonate (24.3 mg, 0.176 mmol) and 4:1 1,4-dioxane:water (3 mL) was heated to 60° C. for 2 h. The solution was concentrated. Purification by ISCO chromatography (1 to 3% EtOAc:heptane) afforded 15 mg (83%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 7.13-7.21 (m, 1 H), 7.39 (dt, J=9.7, 2.0 Hz, 1 H), 7.45-7.55 (m, 2 H), 8.04 (d, J=1.5 Hz, 1 H), 8.74 (d, J=1.3 Hz, 1 H).

reactant | 7-bromo-5-iodo-1,2,3-benzothiadiazole | 0.0586 mmol, 20 mg | BrC1=CC(=CC=2N=NSC21)I | C6H2BrIN2S
reactant | 3-fluorophenylboronic acid | 0.0704 mmol, 9.85 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 0.176 mmol, 24.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
product | 7-bromo-5-(3-fluorophenyl)-1,2,3-benzothiadiazole | 15 mg, 83% | BrC1=CC(=CC=2N=NSC21)C2=CC(=CC=C2)F | C12H6BrFN2S
